US06200980B1
5-(5-Amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
5-(2-Ethoxy-5-nitrophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (0.64 g, 0.0018 mol) was dissolved in ethanol (50 ml) and the solution stirred with 5% palladium on charcoal catalyst (0.050 g) under hydrogen at room temperature and 50 p.s.i. pressure for 4 hours. The mixture was filtered to remove the catalyst, the filtrate evaporated under vacuum, and the residue triturated with ether to give the title compound as an off-white solid (0.56 g, 95%), m.p. 147-148° C. Found: C,62.63; H,6.60; N,21.57. C17H21N5O2 requires C,62.36; H,6.47; N, 21.39%.

reactant | 5-(2-Ethoxy-5-nitrophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.0018 mol, 0.64 g | C(C)OC1=C(C=C(C=C1)[N+](=O)[O-])C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H19N5O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.050 g | [Pd] | Pd
product | 5-(5-Amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.56 g, 95% | NC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H21N5O2
